US03953457
EXAMPLE 6: 1-AMINO-s-TRIAZOLO(4,3-a)QUINOLINE HYDROBROMIDE
2-Hydrazinoquinoline (25.0 grams) was placed in a 3-liter flask (three-necked, equipped with a condenser) containing 1500 milliliters of methanol. To this flask was added 17 grams of cyanogen bromide. The reaction mixture was refluxed for six hours, at which time it was cooled. The reaction mixture was then evaporated down to approximately 200 milliliters. This solution was then poured into 1 liter of absolute ether. The precipitate which formed was washed with an aliphatic naphtha solvent. This precipitate, the desired 1 -amino-s-triazolo(4,3-a)quinoline hydrobromide, was separated by filtration.

reactant | 2-Hydrazinoquinoline | 25.0 grams | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | cyanogen bromide | 17 grams | N#CBr | CBrN
solvent | methanol | 1500 milliliters | CO | CH4O
product | 1-AMINO-s-TRIAZOLO(4,3-a)QUINOLINE HYDROBROMIDE | Br.NC1=NN=C2N1C1=CC=CC=C1C=C2 | InChI=1S/C10H8N4.BrH/c11-10-13-12-9-6-5-7-3-1-2-4-8(7)14(9)10;/h1-6H,(H2,11,13);1H
